* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 23.1
R1 n1 a 3
R2 a nc 4
V2 nc nd DC 21.4
R3 nd ne 1
V3 b ne DC 19.2
V4 nf b DC 13.1
R4 nf 0 2
.op
.print dc V(a) V(b)
.end